US07872139B2
1,1-Dicyclohexyl-3-{5-[4-(1-methyl-1H-imidazole-4-sulfonyl)-piperazin-1-ylmethyl]-thiazol-2-yl}-urea
Prepared as described in general procedure (Q) using 1,1-dicyclohexyl-3-(5-piperazin-1-ylmethyl-thiazol-2-yl)-urea hydrochloride (27 mg, 0.055 mmol), DIEA (29 μL, 0.17 mmol) and N-methylimidazole-4-sulfonyl chloride (20 mg, 0.11 mmol) to afford 20 mg (66%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-piperazin-1-ylmethyl-thiazol-2-yl)-urea hydrochloride | 0.055 mmol, 27 mg | Cl.C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCNCC1)C1CCCCC1
reactant | DIEA | 0.17 mmol, 29 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylimidazole-4-sulfonyl chloride | 0.11 mmol, 20 mg | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
product | 1,1-Dicyclohexyl-3-{5-[4-(1-methyl-1H-imidazole-4-sulfonyl)-piperazin-1-ylmethyl]-thiazol-2-yl}-urea | 20 mg, 66% | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCN(CC1)S(=O)(=O)C=1N=CN(C1)C)C1CCCCC1 | C25H39N7O3S2
